US06265577B1
Methyl 2-methyl-3-(2-methylpyrazolo[1,5-a]pyridine-3-yl)-3-oxopropionate
2-Methyl-3-propionylpyrazolo[1,5-a]pyridine (5.28 g) was dissolved into dimethyl carbonate (100 ml), and, after adding sodium hydride (3.37 g), the mixture was refluxed for 8 hours under heat. Under cooling in water bath, acetic acid was added, then, following dilution with water, the mixture was extracted with methylene chloride. After the organic layer was dried over anhydrous sodium sulfate, solvent was distilled off under reduced pressure and the residue was purified by means of silica gel column chromatography (developing solvent, ethyl acetate:n-hexane=1:3˜1:1) to obtain aimed product (5.13 g) as a yellow oily product.

reactant | 2-Methyl-3-propionylpyrazolo[1,5-a]pyridine | 5.28 g | CC1=NN2C(C=CC=C2)=C1C(CC)=O | C11H12N2O
reactant | dimethyl carbonate | 100 ml | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | 3.37 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Methyl 2-methyl-3-(2-methylpyrazolo[1,5-a]pyridine-3-yl)-3-oxopropionate | 5.13 g | CC(C(=O)OC)C(=O)C=1C(=NN2C1C=CC=C2)C | C13H14N2O3
